US06090817
A stirred mixture of 5-(3-bromo-6-hydroxyphenyl)benzofurazan (8.70 g, 30 mmol), potassium carbonate (14.42 g, 90 mmol) and methyl iodide (2.83 mL, 45 mmol) in dimethylformamide (100 mL) is stirred at 18° C. for 16 h. The mixture is then treated with water (600 mL) and extracted with ethyl acetate (3×150 mL). The combined extracts are washed (saturated NaCl), dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by recrystallisation from t-butylmethyl ether-hexane to give 5-(3-bromo-6-methoxyphenyl)benzofurazan as a beige crystalline solid, m.p. 135-137° C.

reactant | 5-(3-bromo-6-hydroxyphenyl)benzofurazan | 30 mmol, 8.70 g | BrC=1C=C(C(=CC1)O)C=1C=CC=2C(=NON2)C1 | C12H7BrN2O2
reactant | potassium carbonate | 90 mmol, 14.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 45 mmol, 2.83 mL | CI | CH3I
reactant | water | 600 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 5-(3-bromo-6-methoxyphenyl)benzofurazan | BrC=1C=C(C(=CC1)OC)C=1C=CC=2C(=NON2)C1 | C13H9BrN2O2
